US07214682B2
12.1 5,5-Dimethyl-4,5-dihydro-1H-imidazol-2-ylamine hydrobromide (1:1)
To a solution of 15 g (0.17 mol) of 1,2-diamino-2-methylpropane in 150 ml of water at 0° C., was added 18 g (0.17 mol) of cyanogen bromide portionwise and the temperature was allowed to warm to room temperature during 4 h. The water was removed by evaporation and ethanol was added and evaporated. Trituration in a mixture of diethyl ether and ethanol gave 29.5 g (89%) of product as an amorphous hygroscopic solid.

reactant | 1,2-diamino-2-methylpropane | 0.17 mol, 15 g | NCC(C)(C)N | C4H12N2
reactant | cyanogen bromide | 0.17 mol, 18 g | N#CBr | CBrN
solvent | water | 150 ml | O | H2O
product | 5,5-Dimethyl-4,5-dihydro-1H-imidazol-2-ylamine hydrobromide | 29.5 g, 89% | Br.CC1(CN=C(N1)N)C | InChI=1S/C5H11N3.BrH/c1-5(2)3-7-4(6)8-5;/h3H2,1-2H3,(H3,6,7,8);1H
